US09085555B2
C. (2R,3R)-3-Fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
A solution of (2R,3R)-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester (70.0 mg, 0.216 mmol) in MeOH (10 mL) was hydrogenated at RT (1 atm) over Pd/C 10% (35 mg, 50% w/w) for 48 h. The reaction mixture was filtered through a 0.45 microns filter and concentrated under reduced pressure to give the crude title compound (>95% purity by 1H-NMR) as a white solid. MS (LC/MS): 232 [M−H]+; tR (HPLC conditions b): 2.26 min. This material was used in the next reaction step without further purification.

reactant | (2R,3R)-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 0.216 mmol, 70.0 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)F)C(=O)OCC1=CC=CC=C1 | C17H22FNO4
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 35 mg | [Pd] | Pd
product | (2R,3R)-3-Fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | >95% | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)F)C(=O)O | C10H16FNO4
